US06197826B1
Synthesis of α-(2-Hydroxy-5-nitrophenyl)-N-tert-butylnitrone
A mixture of tert-butylhyroxylamine (10.5 g, 120 mmol), 2-hydroxy-5-nitrobenzaldehyde (15 g, 90 mmol) and p-toluenesulfonic acid (1.6 g, 9 mmol) in benzene (375 mL) was refluxed in a flask fitted with a Dean-Stark trap until no more aldehyde was detectable by TLC. The mixture was cooled and the resulting suspension was filtered. The title compound was isolated in 75.1% yield as a pale yellow solid, m.p. 172° C.

reactant | tert-butylhyroxylamine | 120 mmol, 10.5 g | C(C)(C)(C)NO | C4H11NO
reactant | 2-hydroxy-5-nitrobenzaldehyde | 90 mmol, 15 g | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | p-toluenesulfonic acid | 9 mmol, 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 375 mL | C1=CC=CC=C1 | C6H6
product | α-(2-Hydroxy-5-nitrophenyl)-N-tert-butylnitrone | 75.1% yield | OC1=C(C=C(C=C1)[N+](=O)[O-])C=[N+]([O-])C(C)(C)C | C11H14N2O4
